US06403584B1
To a solution of 4-bromophenylsulfonyl chloride (2 g, 7.83 mmol) in acetonitrile (10 mL), was added fluoride on Amberlyst A-26 (Aldrich Chemical Company, 7.5 g, 21.6 mmol F−). After agitation for 5 hours at room temperature, the mixture was filtered. The solvent was removed under reduced pressure to give 4-bromophenylsulfonyl fluoride (1.5 g) (confirmed by IR spectroscopy).

reactant | 4-bromophenylsulfonyl chloride | 7.83 mmol, 2 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | fluoride | [F-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-bromophenylsulfonyl fluoride | 1.5 g | BrC1=CC=C(C=C1)S(=O)(=O)F | C6H4BrFO2S
